US08283354B2
o-Anisoyl chloride (15.7 g, 92 mmol) was added dropwise to a solution of 2-amino-5-fluorobenzamide (13.0 g, 84 mmol) and triethylamine (16 mL, 110 mmol) in tetrahydrofuran (100 mL) cooled in an ice bath. Immediately a precipitate started forming. Stirring of the solution was continued for 5 hours at room temperature. The formed precipitate was collected by filtration and was washed twice with diethyl ether and dried at 50° C. in vacuo. The dried solid was suspended in 2 N aqueous sodium hydroxide solution (250 mL) and heated at reflux until a clear solution was obtained (3 hours). The reaction mixture was cooled to room temperature and filtered. The filtrate was acidified to pH<1 with concentrated aqueous HCl. The formed precipitate was collected by filtration and washed twice with water, twice with methanol, and twice with diethyl ether. The solid was dried in an oven at 45° C. to yield 6-fluoro-2-(2-methoxyphenyl)-3H-quinazolin-4-one (18.2 g, 80%) as a white solid.

reactant | o-Anisoyl chloride | 92 mmol, 15.7 g | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
reactant | 2-amino-5-fluorobenzamide | 84 mmol, 13.0 g | NC1=C(C(=O)N)C=C(C=C1)F | C7H7FN2O
reactant | triethylamine | 110 mmol, 16 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 6-fluoro-2-(2-methoxyphenyl)-3H-quinazolin-4-one | 18.2 g, 80% | FC=1C=C2C(NC(=NC2=CC1)C1=C(C=CC=C1)OC)=O | C15H11FN2O2
